US06774136B2
4-Methoxybenzoic Acid 1-(Dimethylaminophenylmethyl)-naphthalen-2-yl Ester
The preparation was carried out in accordance with general synthesis instructions 4 and 6 from 2-naphthol, benzylidene-dimethyl-ammonium chloride and 4-methoxybenzoyl chloride. The structure was demonstrated by means of ESI-MS: mass calculated 411.51 g/mol, mass found M+H=412.0.

reactant | 2-naphthol | C1=C(C=CC2=CC=CC=C12)O | C10H8O
reactant | benzylidene-dimethyl-ammonium chloride | [Cl-].C(C1=CC=CC=C1)=[N+](C)C
reactant | 4-methoxybenzoyl chloride | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
product | 4-Methoxybenzoic Acid 1-(Dimethylaminophenylmethyl)-naphthalen-2-yl Ester | CN(C)C(C1=C(C=CC2=CC=CC=C12)OC(C1=CC=C(C=C1)OC)=O)C1=CC=CC=C1 | C27H25NO3
